US04028344
Preparation of 1,1'-Azobis [1-(methoxycarbonylamino)cyclohexane]
To a stirred solution of 4.77 grams (.0596 moles) of 50% sodium hydroxide in 30 mls of methanol in a 125 ml erlenmeyer flask cooled in an ice bath, was added a solution of 8.1 grams (.0298 moles) of 1,1'-azobis (1-isocyanatocyclohexane) (from Example XCI) in 25 ml of pentane. After the addition was complete, the reaction was stirred an additional 90 minutes at 0°-5° C., diluted with 150 ml cold water and the pentane layer separated. The pentane solution was washed with water, dried over anhydrous Na2SO4, filtered and the pentane evaporated under reduced pressure to leave 3.3 grams (33% crude yield) of a yellow liquid. The infrared spectrum of the product contained a strong sharp carbonyl band at 1730 cm-1 and a sharp NH band at 3330 cm-1. The isocyanate band of the starting material at 2225 cm-1 was absent.

reactant | sodium hydroxide | .0596 moles, 4.77 grams | [OH-].[Na+]
reactant | 1,1'-azobis (1-isocyanatocyclohexane) | .0298 moles, 8.1 grams | N(=NC1(CCCCC1)N=C=O)C1(CCCCC1)N=C=O | C14H20N4O2
reactant | isocyanate | [N-]=C=O
reactant | methanol | 30 mls | CO | CH4O
solvent | pentane | 25 ml | CCCCC | C5H12
solvent | water | 150 ml | O | H2O
product | 1,1'-Azobis [1-(methoxycarbonylamino)cyclohexane] | N(=NC1(CCCCC1)NC(=O)OC)C1(CCCCC1)NC(=O)OC | C16H28N4O4
